US06046201
N-(12-Hydroxydodecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide
To 0.6 g of N-(12-hydroxydodecyl)-6-chloropyridine-3-carboxamide was added 5 ml of 1-ethylpiperazine and the mixture was stirred at 160° C. for 30 minutes. The reaction solution was diluted with chloroform, washed with water, dried over anhydrous sodium sulfate and distilled off under reduced pressure. The residue was chromatographed over a silica gel column to afford the title compound.

reactant | N-(12-hydroxydodecyl)-6-chloropyridine-3-carboxamide | 0.6 g | OCCCCCCCCCCCCNC(=O)C=1C=NC(=CC1)Cl | C18H29ClN2O2
reactant | 1-ethylpiperazine | 5 ml | C(C)N1CCNCC1 | C6H14N2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(12-Hydroxydodecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide | OCCCCCCCCCCCCNC(=O)C=1C=NC(=CC1)N1CCN(CC1)CC | C24H42N4O2
